US06627648B1
1-Benzo[3,4-d]1,3-dioxolan-5-yloxy-3-chloropropane
Under a nitrogen atmosphere, a solution of sesamol (2.00 g, 14.48 mmol) in DMF (15 mL) was slowly added over 5 min to a cold (0-5° C.), stirring slurry of sodium hydride (0.65 g of an 80% dispersion in mineral oil, 21.67 mmol) in DMF (10 mL). The mixture was allowed to warm to ambient temperature and further stirred for 1 h. To this slurry was added drop-wise over 5 min, 1-chloro-3-iodopropane (3.55 g, 1 7.37 mmol), and the resulting brown mixture was stirred at ambient temperature for 4 h. Cold water (25 mL) was carefully added, followed by saturated NaCl solution (25 mL). The resulting mixture was extracted with ether (4×50 mL). The combined ether extracts were dried (MgSO4), filtered, concentrated by rotary evaporation to a residue that was dried briefly under high vacuum producing a brown oil.

reactant | sesamol | 14.48 mmol, 2.00 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloro-3-iodopropane | 7.37 mmol, 3.55 g | ClCCCI | C3H6ClI
reactant | NaCl | 25 mL | [Na+].[Cl-]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
product | 1-Benzo[3,4-d]1,3-dioxolan-5-yloxy-3-chloropropane | O1COC2=C1C=CC(=C2)OCCCCl | C10H11ClO3
